US05635510
68.1 Synthesis of 3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine
Prepare by the method of Example 1.4 using 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (0.26 g, 1 mmol) and 4-methoxy-benzoyl chloride (2 mmol) to give the title compound: Rf =0.44 (silica gel, 6% methanol in dichloromethane).

reactant | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 1 mmol, 0.26 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 4-methoxy-benzoyl chloride | 2 mmol | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-3-(2-hydroxy-ethyl)-pyrrolidine | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCO | C20H21Cl2NO3
